US08476301B2
(3R*,4S*)-3-[2-(tert-Butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid
Tetrahydrofuran (200 ml) was added to (4-methoxyphenyl)methyl (3S*,4S*)-1-benzyl-4-methylpyrrolidine-3-carboxylate obtained in Reference Example 2b (29.50 g, 87 mmol), followed by azeotropic dehydration. Tetrahydrofuran (200 ml) was further added, followed by azeotropic dehydration. Tetrahydrofuran (400 ml) was added to this product, which was cooled in a dry ice-ethanol bath, and a lithium diisopropylamide/n-hexane-tetrahydrofuran solution (129 ml, 1.11M, 144 mmol) was added over 27 minutes. After 30 minutes, a solution of tert-butyl bromoacetate (21.20 g, 144 mmol) in tetrahydrofuran (30 ml) was added over seven minutes. After 39 minutes, a 20% aqueous ammonium chloride solution (440 ml) was added, and ethyl acetate (440 ml) was further added to perform extraction. The resulting organic layer was washed with water twice (60 ml, 60 ml) and concentrated under reduced pressure at 30° C. Methanol (150 ml) and palladium hydroxide (885 mg) were added to the resulting concentrate, followed by stirring under hydrogen pressure (0.35 MPa) for seven hours and 20 minutes. Water (200 ml) and tetrahydrofuran (100 ml) were added to the reaction liquid, followed by filtration, and the catalyst was sequentially washed with methanol (50 ml) and water (50 ml×2). The filter washings were concentrated under reduced pressure at 50° C., the resulting aqueous layer was washed with tert-butyl methyl ether (100 ml), and the aqueous layer after washing was concentrated under reduced pressure at 50° C. Methanol (150 ml) was added to the resulting residue, and the mixture was ultrasonically treated and then filtered. The resulting solid was dried under reduced pressure at 50° C. to give the title compound (8.16 g, yield: 38.5%).

reactant | (4-methoxyphenyl)methyl (3S*,4S*)-1-benzyl-4-methylpyrrolidine-3-carboxylate | C(C1=CC=CC=C1)N1C[C@H]([C@@H](C1)C)C(=O)OCC1=CC=C(C=C1)OC | C21H25NO3
reactant | lithium diisopropylamide n-hexane tetrahydrofuran | 144 mmol, 1.11M, 129 ml | C(C)(C)[N-]C(C)C.[Li+].CCCCCC.O1CCCC1
reactant | tert-butyl bromoacetate | 144 mmol, 21.20 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | ammonium chloride | 440 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 440 ml | C(C)(=O)OCC | C4H8O2
product | (3R*,4S*)-3-[2-(tert-Butoxy)-2-oxoethyl]-4-methylpyrrolidine-3-carboxylic acid | 8.16 g, yield: 38.5% | C(C)(C)(C)OC(C[C@@]1(CNC[C@H]1C)C(=O)O)=O | C12H21NO4
